US07851626B2
1-{4-[(4S,5R)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-ethanone
In a manner analogous to the method described in example 5, (4S,5R)-2-(4-tert-butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 1-acetyl-piperazine (Aldrich) to give the title compound. LC-MS: 635.2 [(M+H)+]

reactant | (4S,5R)-2-(4-tert-butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride | C(C)(C)(C)C1=CC(=C(C=C1)C=1N([C@@H]([C@](N1)(C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C(=O)Cl)OCC | C29H29Cl3N2O2
reactant | 1-acetyl-piperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 1-{4-[(4S,5R)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-ethanone | C(C)(C)(C)C1=CC(=C(C=C1)C=1N([C@@H]([C@](N1)(C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)C(C)=O)OCC | C35H40Cl2N4O3
